US07208607B1
Step A: Benzyl (2S)-3-(2-bromophenyl)-2-{[(2R)-2-bromopropanoyl]amino}-propanoate
Introduce 25.7 g of benzyl (S)-2-bromophenylalaninate and 150 ml of dichloromethane into a reactor, then bring the temperature of the reaction mixture to 0° C. and add 20 ml of diisopropylethylamine followed by 13.2 g of (2R)-2-bromopropionyl chloride. Subsequently, bring the mixture to ambient temperature. After stirring for 1 hour at that temperature, wash the mixture with water and then with dilute acetic acid solution, and evaporate off the solvents to yield the title compound.

reactant | benzyl (S)-2-bromophenylalaninate | 25.7 g | BrC1=C(C[C@H](N)C(=O)OCC2=CC=CC=C2)C=CC=C1 | C16H16BrNO2
reactant | diisopropylethylamine | 20 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2R)-2-bromopropionyl chloride | 13.2 g | Br[C@@H](C(=O)Cl)C | C3H4BrClO
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Benzyl (2S)-3-(2-bromophenyl)-2-{[(2R)-2-bromopropanoyl]amino}-propanoate | BrC1=C(C=CC=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC([C@@H](C)Br)=O | C19H19Br2NO3
